US04329347
6-[4-(2-Methoxyphenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 1 from 6-(4-bromo-butoxy-3,4-dihydro-carbostyril (m.p. 142°-147° C.) and 2-methoxy-thiophenol.

reactant | 4-bromo-butoxy-3,4-dihydro-carbostyril | BrCCCCOC1C(NC2=CC=CC=C2C1)=O | C13H16BrNO2
reactant | 2-methoxy-thiophenol | COC1=C(C=CC=C1)S | C7H8OS
product | 6-[4-(2-Methoxyphenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril | COC1=C(C=CC=C1)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C20H23NO3S
